US06010837
(b) 4,5-Dihydro-3-propylamino-5-oxo-1-(2,4,6-trichlorophenyl)-1H-pyrazole
4,5-Dihydro-5-oxo-1-(2,4,6-trichlorophenyl)-1H-pyrazol-3-yl propionamide (31.93 g, 95.6 mmol) was dissolved in dry tetrahydrofuran (400 ml) with warming and the solution was cooled to 10° C. with stirring. Borane dimethylsulfide complex (10M, 32 ml, 320 mmole) was added dropwise by syringe through a septum cap. The reaction mixture was heated on a steam-bath for 12 hrs then it was cooled in an ice-bath. Methanol (32 ml) was added dropwise and the mixture was stirred for 1 hr until the effervescence had subsided. Concentrated hydrochloric acid (7 ml) was added to give a clear solution. This was poured into water (100 ml) and the mixture was extracted twice with ethyl acetate (100 ml). The extracts were combined, washed with water and dried (MgSO4). Evaporation of the solvent left a yellow oil which was dried under vacuum for 2 hrs. The crude product (37.1 g) was purified by column chromatography on silica gel, eluting with a 2:1 mixture of ethyl acetate and 60-80 petroleum ether to give a pale yellow oil which solidified on standing, 22.0 g, 72%.

reactant | 4,5-Dihydro-5-oxo-1-(2,4,6-trichlorophenyl)-1H-pyrazol-3-yl propionamide | 95.6 mmol, 31.93 g | O=C1CC(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C(=O)N)C | C12H10Cl3N3O2
reactant | Methanol | 32 ml | CO | CH4O
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 4,5-Dihydro-3-propylamino-5-oxo-1-(2,4,6-trichlorophenyl)-1H-pyrazole | C(CC)NC1=NN(C(C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C12H12Cl3N3O
